US04916152
A solution of (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-methoxycarbonylpyrrolidine (20 g) in 90% aqueous trifluoroacetic acid was stirred at room temperature for 30 minutes and the solvent was evaporated in vacuo. The residue was dissolved in a mixture of chloroform and methanol (500 ml, 3:1) and the solution was washed successively with saturated aqueous sodium bicarbonate and brine. The organic layer was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was solidified with ether to give (2S,4R)-4-(4-chlorophenylsulfonylamino)-2-methoxycarbonylpyrrolidine (10.7 g).

reactant | (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-methoxycarbonylpyrrolidine | 20 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)C(=O)OC | C17H23ClN2O6S
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (2S,4R)-4-(4-chlorophenylsulfonylamino)-2-methoxycarbonylpyrrolidine | 10.7 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1C[C@H](NC1)C(=O)OC | C12H15ClN2O4S
